US05321135
Synthesis of (S)-(E)-3-[1-(3,4-dihexyloxy-5- methoxyphenyl)methyl]-2-(3,4,5-trimethoxybenzylidene)butanolide:
Potassium carbonate (500 mg, 3.6 mmol) and 1-iodohexane (1.0 ml, 6.79 mmol) were added to a solution of (S)-(E)-3-[1-(3,4-dihydroxy-5-methoxyphenyl)methyl]-2-(3,4,5-trimethoxybenzylidene)butanolide (324 mg, 0.78 mmol) in 10 ml of DMF, followed by stirring at 60° C. for 4.5 hours. The reaction mixture was poured into 50 ml of ethyl acetate and then the resulting solution was washed successively with water, 2N-HCl, water and saturated NaHCO3. After the organic layer was dried over anhydrous magnesium sulfate, the solvent was distilled off under reduced pressure. Brown oil thus obtained was purified by column chromatography (silica gel: "FUJI-DAVIDSON BW-300", eluent: 1:3 mixed solvent of ethyl acetate and hexane), whereby 310 mg of the title compound were obtained as colorless oil (yield: 68%).

reactant | Potassium carbonate | 3.6 mmol, 500 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 1-iodohexane | 6.79 mmol, 1.0 ml | ICCCCCC | C6H13I
reactant | (S)-(E)-3-[1-(3,4-dihydroxy-5-methoxyphenyl)methyl]-2-(3,4,5-trimethoxybenzylidene)butanolide | 0.78 mmol, 324 mg | OC=1C=C(C=C(C1O)OC)C[C@H]1\C(\C(=O)OC1)=C/C1=CC(=C(C(=C1)OC)OC)OC | C22H24O8
reactant | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | (S)-(E)-3-[1-(3,4-dihexyloxy-5- methoxyphenyl)methyl]-2-(3,4,5-trimethoxybenzylidene)butanolide | 310 mg | C(CCCCC)OC=1C=C(C=C(C1OCCCCCC)OC)C[C@H]1\C(\C(=O)OC1)=C/C1=CC(=C(C(=C1)OC)OC)OC | C34H48O8
